US04873236
3-Chloro-4-[[[2-[2-[(dipropylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one
Prepared analogously to Example 2 from 3-chloro-4-(chlorocarbonyl)-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one and 2-[2-[(dipropylamino)methyl]-piperidin-1-yl]ethanamine in a yield of 57% of theory.

reactant | 3-chloro-4-(chlorocarbonyl)-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one | ClC1=CN(C2=C1N(C1=C(NC2=O)C=CC=C1)C(=O)Cl)C | C13H9Cl2N3O2
reactant | 2-[2-[(dipropylamino)methyl]-piperidin-1-yl]ethanamine | C(CC)N(CCC)CC1N(CCCC1)CCN | C14H31N3
product | 3-Chloro-4-[[[2-[2-[(dipropylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one | yield of 57% | ClC1=CN(C2=C1N(C1=C(NC2=O)C=CC=C1)C(=O)NCCN1C(CCCC1)CN(CCC)CCC)C | C27H39ClN6O2
